US04268446
Using the method described in Example 1, last paragraph, 25.0 g (0.129 mole) of 4-acetoxy-2,3,5-trimethylphenol were reacted with 12.3 g (0.129 mole) of methyl vinyl ketone cyanohydrin, stabilized with phosphoric acid, and with 13.3 g (0.129 mole) of BF3. Conventional working up of the reaction mixture gave, according to analysis by gas chromatography, 25% of 6-acetoxy-2,5,7,8-tetramethyl-2-cyanochromane; colorless crystals, melting point 149°-151° C. In addition, 15% of 6-hydroxy-2,5,7,8-tetramethyl-2-cyanochromane were obtained.

reactant | 4-acetoxy-2,3,5-trimethylphenol | 0.129 mole, 25.0 g | C(C)(=O)OC1=C(C(=C(C=C1C)O)C)C | C11H14O3
reactant | methyl vinyl ketone cyanohydrin | 0.129 mole, 12.3 g | CC(C=C)(C#N)O | C5H7NO
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | BF3 | 0.129 mole, 13.3 g | B(F)(F)F | BF3
reactant | 6-acetoxy-2,5,7,8-tetramethyl-2-cyanochromane | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C#N)C)C | C16H19NO3
product | 6-hydroxy-2,5,7,8-tetramethyl-2-cyanochromane | 15% | OC=1C(=C2CCC(OC2=C(C1C)C)(C#N)C)C | C14H17NO2
